US05972951
Methyl 4-bromo-3-methylbenzimidate hydrochloride
4-Bromo-3-methylbenzonitrile (15.0 g, 76.5 mmol) was dissolved in dry methanol (3.1 ml, 76.5 mmol) and dry diethyl ether (108 ml), cooled to 0-5°, then saturated with HCl (g). Stirred for 18 hours at room temperature and the solid collected by filtration, then dried in vacuo to yield the title compound as white needle-like crystals (19.3 g, 95%).

reactant | 4-Bromo-3-methylbenzonitrile | 76.5 mmol, 15.0 g | BrC1=C(C=C(C#N)C=C1)C | C8H6BrN
reactant | methanol | 76.5 mmol, 3.1 ml | CO | CH4O
reactant | HCl | Cl | ClH
solvent | diethyl ether | 108 ml | C(C)OCC | C4H10O
product | Methyl 4-bromo-3-methylbenzimidate hydrochloride | Cl.BrC1=C(C=C(C(OC)=N)C=C1)C | InChI=1S/C9H10BrNO.ClH/c1-6-5-7(9(11)12-2)3-4-8(6)10;/h3-5,11H,1-2H3;1H
